US05166204
Diethyl 6-chloro-1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate was subjected instead of the N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide to the same reaction as in Reference Example 1 (3), to obtain diethyl 6-chlorocarbazole-2,3-dicarboxylate as colorless crystals.

reactant | Diethyl 6-chloro-1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate | ClC=1C=C2C=3CC(C(CC3NC2=CC1)C(=O)OCC)C(=O)OCC | C18H20ClNO4
reactant | N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide | C(C1=CC=CC=C1)N1C(=O)C2CCC=3NC4=CC=CC=C4C3C2C1=O | C21H18N2O2
product | diethyl 6-chlorocarbazole-2,3-dicarboxylate | ClC=1C=C2C=3C=C(C(=CC3NC2=CC1)C(=O)OCC)C(=O)OCC | C18H16ClNO4
